US08895497B2
Boc-Phe-OH (2 g, 13.77 mmol), H-Leu-OMe (11 g, 41.32 mmol), HOBt (5.58 g, 41.32 mmol), and HBTU (15.67 g, 41.32 mmol) were dissolved in DMF (69 mL) and then DIPEA (7.2 mL, 41.32 mmol) was added under argon. The reaction was stirred for 8 hrs at room temperature. The reaction was extracted by EtOAc and wash with 5% NaHSO3, sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, and concentrated by rotary evaporation. The crude was purified by chromatography (silica, 4/1: Hexane/EtOAc, Rf=0.3) to give methyl 2-(2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoylamino)-4-methylpentanoate as white solid (4.5 g, 8%).

reactant | Boc-Phe-OH | 13.77 mmol, 2 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | H-Leu-OMe | 41.32 mmol, 11 g | N[C@@H](CC(C)C)C(=O)OC | C7H15NO2
reactant | HOBt | 41.32 mmol, 5.58 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 41.32 mmol, 15.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 41.32 mmol, 7.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 69 mL | CN(C)C=O | C3H7NO
product | methyl 2-(2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoylamino)-4-methylpentanoate | 4.5 g, 8% | C(C)(C)(C)OC(=O)NC(C(=O)NC(C(=O)OC)CC(C)C)CC1=CC=CC=C1 | C21H32N2O5
